US09193720B2
PD(Ph3P)4 (143 mg, 0.124 mmol) was added to an argon-degassed solution of (S)-isopropyl 2-(5-bromo-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (300 mg, 0.618 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (177 mg, 0.68 mmol), potassium phosphate tribasic (984 mg, 4.63 mmol) in dioxane (5 ml) and water (1 ml) stirred in a screw-capped pressure vessel for 16 h at 90° C. The reaction was allowed to cool, diluted with EtOAc, and the organic layer was washed with brine and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-50% EtOAc/hexanes) using an Isolera chromatography station gave (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate 300 mg (78%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.39-7.37 (m, 2H), 7.21-7.12 (m, 3H), 7.04-7.00 (m, 3H), 5.98 (br. s, 1H), 4.96-4.93 (m, 1H), 4.24-4.21 (m, 2H), 3.42-3.40 (m, 2H), 3.26-3.21 (m, 1H), 3.07-3.05 (m, 2H), 2.90-2.86 (m, 1H), 2.81 (s, 3H), 2.44 (s, 3H), 2.05 (s, 3H), 1.53-1.42 (m, 2H), 1.33-1.25 (m, 2H), 1.18 (d, J=6.2 Hz, 3H), 1.14-1.12 (m, 12H), 1.00/0.81 (s, 3H). UPLC (M+H)=621.6.

reactant | (S)-isopropyl 2-(5-bromo-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.618 mmol, 300 mg | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)(C)OC | C23H37BrN2O4
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.68 mmol, 177 mg | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | potassium phosphate tribasic | 4.63 mmol, 984 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(4-methoxy-4-methylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 300 mg, 78% | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)(C)OC)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H49FN2O5
